US04789678
4-Amino-α,2-dimethyl-3-quinolinemethanol
1-(4-amino-2-methyl-3-quinolinyl)-ethanone (2 g) was added all at once as a solid to a stirred suspension of sodium borohydride (1.13 g) in isopropanol (50 ml). The mixture was refluxed for several hours until the reaction was complete based on thin-layer chromatography (silica gel, 10% methanol/dichloromethane). Methanol (10 ml) and water (5 ml) were added and the mixture was allowed to cool slowly to room temperature. Most of the solvent was evaporated under vacuum, and the concentrate partitioned between water and ethyl acetate. The ethyl acetate extract was dried (saturated sodium chloride wash, sodium sulfate) and the ethyl acetate removed under vacuum. The resulting solid was recrystallized from acetonitrile to give 1.5 g of crystals, mp 214°.

reactant | 1-(4-amino-2-methyl-3-quinolinyl)-ethanone | 2 g | NC1=C(C(=NC2=CC=CC=C12)C)C(C)=O | C12H12N2O
reactant | sodium borohydride | 1.13 g | [BH4-].[Na+]
reactant | methanol dichloromethane | CO.ClCCl
reactant | Methanol | 10 ml | CO | CH4O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | water | 5 ml | O | H2O
product | 4-Amino-α,2-dimethyl-3-quinolinemethanol | 1.5 g | NC1=C(C(=NC2=CC=CC=C12)C)C(O)C | C12H14N2O
